US05332734
1.6 ml of 1N sodium hydroxide was added dropwise to a solution of 435 mg of N-acetyl-N-(9-fluorenyl)-β-alanine ethyl ester in 25 ml of ethanol under ice-cooling. After stirring for 4.5 hours, the reaction solution was condensed. The residue was dissolved in water and, then, washed with ether. The pH value of the water layer was adjusted to 3 to 4 with 5% hydrochloric acid. The precipitate formed was separated by filtration, washed with ice-cold water, and recrystallized from a mixture of ethyl acetate and methanol to give 168 mg of N-acetyl-N-(9-fluorenyl)-β-alanine.

reactant | sodium hydroxide | 1N, 1.6 ml | [OH-].[Na+]
reactant | N-acetyl-N-(9-fluorenyl)-β-alanine ethyl ester | 435 mg | C(C)OC(CCN(C1C2=CC=CC=C2C=2C=CC=CC12)C(C)=O)=O | C20H21NO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-acetyl-N-(9-fluorenyl)-β-alanine | 168 mg | C(C)(=O)N(CCC(=O)O)C1C2=CC=CC=C2C=2C=CC=CC12 | C18H17NO3
